US08071592B2
(d) Racemic 3-(aminomethyl)-1-(phenylmethyl)-4-piperidinol
A suspension of 4-hydroxy-1-(phenylmethyl)-3-piperidinecarboxamide (5.62 g, 23.9 mmol) in THF (65 mL) was treated dropwise with borane-methyl sulphide complex (2M solution in THF, 26.4 mL, 52.8 mmol). After stirring for 0.5 h at room temperature, the reaction mixture was heated at 80° C. for 1.5 h. Methanol (16 mL) was added and heating continued for 0.5 h. The mixture was evaporated and the residue was chromatographed on silica gel, eluting with 10-30% (2M ammonia/methanol)/dichloromethane to give the product (2.67 g, 51%).

reactant | 4-hydroxy-1-(phenylmethyl)-3-piperidinecarboxamide | 23.9 mmol, 5.62 g | OC1C(CN(CC1)CC1=CC=CC=C1)C(=O)N | C13H18N2O2
reactant | borane methyl sulphide | 52.8 mmol, 2M, 26.4 mL | B.CSC
reactant | Methanol | 16 mL | CO | CH4O
solvent | THF | 65 mL | C1CCOC1 | C4H8O
product | Racemic 3-(aminomethyl)-1-(phenylmethyl)-4-piperidinol | 2.67 g, 51% | NCC1CN(CCC1O)CC1=CC=CC=C1 | C13H20N2O
